US05475015
N-(2-methoxy-5-trifluoromethylphenyl)-4-trifluoromethyl-2-nitroaniline.
To an ice cooled solution of 2-Methoxy-5-trifluoromethylaniline (311 mmol, 59.4 g) in 500 ml dry dimethylformamide is added sodiumhydride (438 mmol, 17.5 g 60%) followed by slow addition of 2-chloro-5-trifluoromethyl-nitrobenzene (311 mmol, 47.4 ml) and the mixture is stirred for 60 hours. More sodiumhydride (10 g 60%) is added and after stirring for additional two hours is another portion of 2-chloro-5-trifluoromethyl-nitrobenzene (5 ml) and sodiumhydride (2 g 60%) added. Upon completion is the reaction mixture poured into water and a black precipitate is formed. The crude product is filtered of and is washed with 1M HCl and petroleum ether yielding the title compound as grey crystals, M.p. 86°-88° C.

reactant | 2-Methoxy-5-trifluoromethylaniline | 311 mmol, 59.4 g | COC1=C(N)C=C(C=C1)C(F)(F)F | C8H8F3NO
reactant | sodiumhydride | 438 mmol, 17.5 g | [H-].[Na+]
reactant | 2-chloro-5-trifluoromethyl-nitrobenzene | 311 mmol, 47.4 ml | ClC1=C(C=C(C=C1)C(F)(F)F)[N+](=O)[O-] | C7H3ClF3NO2
reactant | sodiumhydride | 10 g | [H-].[Na+]
reactant | 2-chloro-5-trifluoromethyl-nitrobenzene | 5 ml | ClC1=C(C=C(C=C1)C(F)(F)F)[N+](=O)[O-] | C7H3ClF3NO2
reactant | sodiumhydride | 2 g | [H-].[Na+]
reactant | water | O | H2O
solvent | dimethylformamide | 500 ml | CN(C=O)C | C3H7NO
product | N-(2-methoxy-5-trifluoromethylphenyl)-4-trifluoromethyl-2-nitroaniline | COC1=C(C=C(C=C1)C(F)(F)F)NC1=C(C=C(C=C1)C(F)(F)F)[N+](=O)[O-] | C15H10F6N2O3
